US07417169B2
4′-(2-Hydroxyethoxy)-3′,5′-dimethylbiphenyl-4-carboxylic acid
A mixture of 2-(4-bromo-2,6-dimethylphenoxy)ethanol (0.645 g), 4-carboxyphenylboronic acid (0.873 g), tetrakis-(triphenylphosphine)palladium(0) (0.152 g), cesium fluoride (2.398 g), 1,4-dioxane (7.5 mL), ethanol (2.5 mL) and water (1.5 mL) was stirred at 90° C. overnight under an atmosphere of argon. Water and ethyl acetate were added to the reaction mixture. The organic layer was separated, washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: ethylacetate/n-hexane=1/1-2/1) to afford the title compound (0.292 g).

reactant | 2-(4-bromo-2,6-dimethylphenoxy)ethanol | 0.645 g | BrC1=CC(=C(OCCO)C(=C1)C)C | C10H13BrO2
reactant | 4-carboxyphenylboronic acid | 0.873 g | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
reactant | cesium fluoride | 2.398 g | [F-].[Cs+]
reactant | 1,4-dioxane | 7.5 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | water | 1.5 mL | O | H2O
solvent | ethanol | 2.5 mL | C(C)O | C2H6O
product | 4′-(2-Hydroxyethoxy)-3′,5′-dimethylbiphenyl-4-carboxylic acid | 0.292 g | OCCOC1=C(C=C(C=C1C)C1=CC=C(C=C1)C(=O)O)C | C17H18O4
